US07863442B2
4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine (100 g, 0.38 mol), N-methylpiperazine (250 mL, 2.5 vol) and 2-butanol (200 mL, 2 vol) were charged into a three-necked round bottom flask equipped with a reflux condenser, overhead stirrer, and thermometer. The reaction mixture was heated to reflux at 118° C. under a nitrogen atmosphere and refluxed overnight. The reaction mixture was allowed to cool to below 55° C. whereupon water (300 mL, 3 volumes) was added to precipitate out the solid. It was isolated by Buchner filtration and the light yellow solid was washed twice with 25% aqueous 2-butanol (100 mL) and then once with 2-butanol (100 mL) and dried to provide olanzapine in 84% yield (98.7 g).

reactant | 4-Amino-2-methyl-10H-thieno-[2,3-b][1,5]benzodiazepine | 0.38 mol, 100 g | NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | C12H11N3S
reactant | N-methylpiperazine | 250 mL | CN1CCNCC1 | C5H12N2
reactant | 2-butanol | 200 mL | CC(CC)O | C4H10O
solvent | water | 300 mL | O | H2O
product | olanzapine | 84% yield | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
